US03969323
146 g (0.7 mole) of 4-methyl-6-methacryloyloxymethyl-pyrone-(2) and 42 g (0.3 mole) of n-butyl methacrylate in 170 ml of benzene are polymerized in the presence of 100 mg of AIBN as the initiator for 5 hours at 80°C, analogously to Example 1. After cooling, the product is dissolved in 800 ml of chloroform, the solution is filtered through a Seitz-KOoo filter under pressure and, after further dilution with chloroform, the polymer is reciprocated from 10 l of ether/petroleum ether (3:1). After drying at 25°C under a vacuum of 0.1 mm Hg, 181.2 g of white polymer are obtained; the polymer readily dissolves in, for example, butanone, cyclohexanone, methylene chloride, chloroform and 1,2-dichloroethane. RSV = 1.0 (25°C; 1% in CHCl3)

reactant | AIBN | 100 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | butanone | CC(CC)=O | C4H8O
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | benzene | 170 ml | C1=CC=CC=C1 | C6H6
solvent | chloroform | 800 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | n-butyl methacrylate | 0.3 mole, 42 g | C(C(=C)C)(=O)OCCCC | C8H14O2
